data/mechanism_extracts/ACSCatal/10.1021_acscatal.0c01841.json
{"doi": "10.1021_acscatal.0c01841", "journal": "ACSCatal", "is_review": false, "rxn_class_summary": "Visible-light photocatalytic dearomative [2+2] cycloaddition of N-(omega-alkenoyl)indoles with alkenes via energy transfer to give cyclobutane-fused indoline polycycles", "mechanism_family": ["photoredox_combined", "biradical", "concerted"], "electrochemical_role": null, "key_intermediates": [{"name": "Triplet excited indole substrate 1a-T1 (sensitized via EnT from Ir photocatalyst)", "smiles": null, "role": "reactive"}, {"name": "Tail-to-tail bridged [6.3.0] 1,4-biradical INT1 (triplet)", "smiles": null, "role": "reactive"}, {"name": "Open-shelled singlet biradical INT1-OSS (after MECP1 spin crossing)", "smiles": null, "role": "transient"}, {"name": "Head-to-head bridged [6.2.1] 1,4-biradical INT1' (triplet, disfavored)", "smiles": null, "role": "off_pathway"}, {"name": "Open-shelled singlet INT1'-OSS (disfavored pathway)", "smiles": null, "role": "off_pathway"}], "electron_flow": "Ir(III) photocatalyst is excited by visible light and transfers triplet energy to the N-acylindole substrate, generating a triplet diradical localized at indole C2/C3; this attacks the tethered alkene in a tail-to-tail fashion to give a triplet 1,4-biradical, which crosses to the open-shelled singlet surface (MECP) and closes to the cyclobutane-fused indoline product. No net SET between PC and substrate occurs (substrate redox potentials lie outside PC range).", "rate_determining_step": "C-C bond formation via tail-to-tail transition state TS1 (14.5 kcal/mol barrier from 1a-T1; head-to-head TS1' at 91.9 kcal/mol is disfavored by 14.9 kcal/mol)", "probe_reagents": [{"name": "2,5-dimethylhexa-2,4-diene (triplet quencher)", "smiles": "CC(=CC=C(C)C)C", "purpose": "intermediate_trap", "observation": "Standard reaction strongly inhibited, yield drops to 2%, supporting a triplet energy-transfer mechanism"}, {"name": "Trifluoroethanol (CF3CH2OH) titration monitored by 13C NMR", "smiles": "OCC(F)(F)F", "purpose": "other", "observation": "Downfield shift and line broadening of the acyl carbonyl 13C signal upon adding TFE, indicating H-bonding between solvent and substrate carbonyl that lowers triplet energy"}, {"name": "Stern-Volmer quenching with 1a", "smiles": null, "purpose": "redox_probe", "observation": "Photocatalyst emission efficiently quenched by N-(omega-alkenoyl)indole 1a"}, {"name": "Cyclic voltammetry of 1a", "smiles": null, "purpose": "redox_probe", "observation": "E(ox) = 1.70 V vs SCE; no reductive peak observed - outside redox window of Ir PC (E1/2(III*/II)=1.21 V, E1/2(III*/IV)=-0.89 V), ruling out photoinduced electron transfer"}], "evidence_types_used": ["intermediate_trap_other", "cyclic_voltammetry", "UV_vis", "DFT", "isolation_of_intermediate"], "evidence_strength": "strong", "notes": "Two competing cyclization modes were computed: favored tail-to-tail (TS1 77.0 kcal/mol, via INT1/INT1-OSS/TS2 to product 2a at 9.6 kcal/mol) vs disfavored head-to-head (TS1' 91.9 kcal/mol, via INT1'/INT1'-OSS/TS2'). Three undetected diastereomers (2a-A', 2a-B, 2a-B') were also located on the PES and shown to be kinetically/thermodynamically inaccessible. Mechanism involves two minimum energy crossing points (MECP1 48.4, MECP2 80.1 kcal/mol) between triplet and open-shelled singlet surfaces. H-bonding from CF3CH2OH solvent to the acyl carbonyl is proposed to lower the substrate triplet energy, enabling efficient EnT from Ir(dFCF3ppy)2(dtbbpy)PF6."}
